US08110687B2
To a solution of 1-(1,1-difluoroethyl)-3-nitrobenzene (2.75 g, 14.7 mmol) in AcOH (30 mL) was added zinc (10.0 g, 153 mmol). The reaction mixture was allowed to stir at rt overnight. The mixture was diluted with EtOAc (40 mL) and filtered through Celite. The filtrate was concentrated. The residue was diluted with DCM (20 mL), washed with saturated NaHCO3 (20 mL) and brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give 3-(1,1-difluoroethyl)benzenamine as light brown oil. 1H NMR (300 MHz, DMSO) δ 7.21 (dd, 1H), 6.89 (s, 1H), 6.80 (d, 1H), 6.79 (d, 1H), 186 (t, 3H); LCMS: ES+ 158.1.

reactant | 1-(1,1-difluoroethyl)-3-nitrobenzene | 14.7 mmol, 2.75 g | FC(C)(F)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7F2NO2
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | zinc | 153 mmol, 10.0 g | [Zn] | Zn
product | 3-(1,1-difluoroethyl)benzenamine | FC(C)(F)C=1C=C(C=CC1)N | C8H9F2N
